US06855709B2
Preparation of 5-Chloro-2-pyridinyl phenyl sulfide:
2,5 Dichloropyridine (8.9 g, 60 mmol) and thiophenol (6.1 mL, 60 mmol) were heated to 150° C. for 41 h. The mixture then was removed from heat and cooled to room temperature. Column chromatography (silica gel, 200 mL) using hexanes as eluent gave 8.06 g of the title compound; IR (liq.) 1564, 1548, 1476, 1440, 1356, 1122, 1092, 1024, 1006, 821, 748, 727, 706, 691, 628 cm−1. 1H NMR (CDCl3) δ 6.8, 7.4, 7.6, 8.38.

reactant | 2,5 Dichloropyridine | 60 mmol, 8.9 g | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | thiophenol | 60 mmol, 6.1 mL | C1(=CC=CC=C1)S | C6H6S
product | 5-Chloro-2-pyridinyl phenyl sulfide | 8.06 g | C1(=CC=CC=C1)SC1=NC=C(C=C1)Cl | C11H8ClNS
